US07754744B2
Step 2: 4-(5-Hydroxy-pyridin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester
To a solution of 4-(5-benzyloxy-pyridin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (18.2 g, 47.5 mmol, 1.0 equiv) in methanol (200 mL) was added 10% Pd on activated carbon (2.53 g, 2.38 mmol 0.05 equiv) under an atmosphere of Ar. The reaction vessel was twice evacuated and ventilated with hydrogen gas and the well stirred reaction mixture was subsequently hydrogenated at rt and 1 bar H2 for 3 h. After filtration over dicalite the crude reaction mixture was concentrated by evaporation under reduced pressure and purified by column chromatography on silica eluting with a gradient of dichloromethane/methanol to give 10.50 g (75%) of the title compound as a light yellow solid. MS (ISP): 294.2 [M+H]+.

reactant | 4-(5-benzyloxy-pyridin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 47.5 mmol, 18.2 g, 1.0 equiv | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC=C(C=C1)OCC1=CC=CC=C1 | C22H29N3O3
solvent | methanol | 200 mL | CO | CH4O
catalyst | Pd on activated carbon | 2.38 mmol, 2.53 g, 0.05 equiv | [Pd] | Pd
product | 4-(5-Hydroxy-pyridin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 10.50 g, 75% | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC=C(C=C1)O | C15H23N3O3
